US05034410
(4-cyano-2-methylaniline)
To a stirred, 25° C. solution of 3-methyl-4-nitrobenzonitrile (24 g, 0.148 mol) in acetic acid (250 mL) under nitrogen was added dropwise a solution of SnCl2.2H2O (133.57 g., 0.592 mol) in concentrated HCl (250 mL). After stirring for 3 hours, the reaction mixture was added carefully to excess cold ammonium hydroxide. The reaction mixture was extracted several times with ethyl ether. The organic extracts were then combined, dried (Na2SO4) and evaporated under reduced pressure to afford 12 g (61%) of the title compound, 4-cyano-2-methylaniline, as a white solid; m.p. 64°-66° C.

reactant | 3-methyl-4-nitrobenzonitrile | 0.148 mol, 24 g | CC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H6N2O2
reactant | SnCl2.2H2O | 0.592 mol, 133.57 g | O.O.Cl[Sn]Cl
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 250 mL | Cl | ClH
product | 4-cyano-2-methylaniline | 12 g, 61% | C(#N)C1=CC(=C(N)C=C1)C | C8H8N2
